US07507729B2
b) (2-Oxo-3-trifluoromethyl-2H-pyridin-1-yl)-acetic acid hydrazide
As described for example 112a, (2-oxo-3-trifluoromethyl-2H-pyridin-1-yl)-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (1.2 equivalents) at rt for 72 h. The mixture was concentrated and crystallized from ethanol/diisopropylether and the compound was obtained as a white solid (yield: 95%). MS: m/e=236.3 [M+H]+.

reactant | (2-oxo-3-trifluoromethyl-2H-pyridin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C(=CC=C1)C(F)(F)F)=O)=O | C10H10F3NO3
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (2-Oxo-3-trifluoromethyl-2H-pyridin-1-yl)-acetic acid hydrazide | yield: 95% | O=C1N(C=CC=C1C(F)(F)F)CC(=O)NN | C8H8F3N3O2
